US08349847B2
Preparation of 2,3-dihydro-benzo[1,4]dioxin-6-yl-methylamine hydrochloride
242.0 g of Methanolic ammonia [as 100% w/w by chemical assay] [Note: as chemical assay: 23.0% w/w, volume 1350.0 ml] and 30.0 g (0.183 mol) of 1,4-benzodioxan-6-carboxaldehyde were charged into a 2.0 L 4 necked round bottom flask, connect to a mechanical stirrer, thermo meter socket and condenser at 20-30° C. Stirred the mass for 20-30 min at 20-30° C. After dissolution is clear. Reaction mass was charged into a 2.0 L hydrogenator kettle at 20-30° C. 30.0 g of Raney Nickel (with Methanol dried) was charged under nitrogen atmosphere. Kettle was fitted to the hydrogenator. Nitrogen atmosphere was removed in Hydrogenator kettle with hydrogen gas by slowly flushing. Hydrogen gas was feeded upto 50-55 psi in hydrogenation kettle under oscillation. Maintained the hydrogen gas pressure (50-55 psi) till the hydrogen gas consumption is stopped. Reaction mass temperature was raised to 40-45° C. After hydrogen gas consumption is stooped at 45-50° C. Reaction mass temperature was cooled to 25-30° C. Maintained the hydrogen gas pressure at 50-55 psi for till the hydrogen gas consumption is stopped (about 90-120 min) Raney nickel was filtered through hyflow bed under nitrogen atmosphere. Raney Nickel was washed with 300.0 ml of methanol under nitrogen atmosphere. Filterate was collected into a flask. Methanol was distilled completely under vacuum at mass temperature not crossing 55° C. Mass temperature was cooled to 40-45° C. and release the vacuum. 50.0 ml of isopropyl alcohol was added. Reaction mass pH was adjusted to 0.5±0.25 with IPA HCl. Maintained the mass temperature at 25-30° C. for 60-90 min under stirring. Solid was filtered and solid was washed with 20.0 ml of isopropyl alcohol. Compound was dried under vacuum at 40±5° C. Dry compound weight: 31.0 g (yield: 84.1%).

reactant | ammonia | 1350.0 ml, 242.0 g | N | H3N
reactant | 1,4-benzodioxan-6-carboxaldehyde | 0.183 mol, 30.0 g | O1CCOC2=C1C=CC(=C2)C=O | C9H8O3
reactant | hydrogen | [H][H] | H2
reactant | IPA HCl | CC(C)O.Cl
catalyst | Raney Nickel | 30.0 g | [Ni] | Ni
product | 2,3-dihydro-benzo[1,4]dioxin-6-yl-methylamine hydrochloride | yield: 84.1% | Cl.O1CCOC2=C1C=CC(=C2)NC | InChI=1S/C9H11NO2.ClH/c1-10-7-2-3-8-9(6-7)12-5-4-11-8;/h2-3,6,10H,4-5H2,1H3;1H
